US04122186
Anhydrous acetone (100 ml), potassium carbonate (21 g), p-chlorobenzylmercaptan (19.5 ml), methyl chloroacetate (13.2 ml) and potassium iodide (0.1 g) are mixed in the cold. The mixture thus obtained is stirred and heated under reflux for 7 hours. It is cooled, the precipitate (K2CO3) is filtered off, the acetone is evaporated from the filtrate and the residue is taken up with ether. The ether solution is washed with 4 N NaOH and then with water until the wash waters have a neutral pH. The ether solution is then dried over MgSO4, the ether is evaporated and 34.5 g (100% yield) of methyl p-chlorobenzylmercapto-acetate are collected in the form of a chromatographically pure oil.

reactant | potassium carbonate | 21 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-chlorobenzylmercaptan | 19.5 ml | ClC1=CC=C(CS)C=C1 | C7H7ClS
reactant | methyl chloroacetate | 13.2 ml | ClCC(=O)OC | C3H5ClO2
reactant | potassium iodide | 0.1 g | [I-].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | methyl p-chlorobenzylmercapto-acetate | 34.5 g, 100% yield | ClC1=CC=C(CSCC(=O)OC)C=C1 | C10H11ClO2S
